US05082838
1-Oxo-9-phenyl-7-propyl-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
m-Chloroperbenzoic acid (0.34 g)was added to a solution of 9-phenyl-7-propyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione (0.53 g) in methylene chloride (10 mll) little by little with stirring under ice cooling, and then, the reaction mixture was stirred at room temperature for 10 hours. An insoluble material was removed by filtration, and the filtrate was washed with a saturated aqueous sodium bicarbonate. After drying, the organic solution was concentrated to dryness. The resulting residue was purified column chromatography on silica gel. The resulting crude crystals were recrystalized from methylene chloride-isopropyl ether to give colorless needles (0.47 g, 87%).

reactant | m-Chloroperbenzoic acid | 0.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 9-phenyl-7-propyl-4H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.53 g | C1(=CC=CC=C1)C=1C(N(C(N2C1SC=CC2)=O)CCC)=O | C16H16N2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Oxo-9-phenyl-7-propyl-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.47 g, 87% | O=S1C=2N(C=CC1)C(N(C(C2C2=CC=CC=C2)=O)CCC)=O | C16H16N2O3S
